US20010003782A1
327 mg sodium borohydride are added to a solution of 1.76 g 5-cyano-5α-cholest-8-en-3-one in 200 ml ethanol at room temperature. The reaction mixture is stirred for 4 hours. After addition of hydrochloric acid (1 N) the resulting mixture is extracted with dichloromethane. The organic layer is separated, dried over anhydrous sodium sulphate and filtered. After evaporation of the solvent the residue is chromatographed with a mixture of hexane and ethyl acetate to give 0.36 mg 5-cyano-5α-cholest-8-en-3β-ol and 1.00 g 5-cyano-5α-cholest-8-en-3β-ol as white solids.

reactant | sodium borohydride | 327 mg | [BH4-].[Na+]
reactant | 5-cyano-5α-cholest-8-en-3-one | 1.76 g | C(#N)[C@]12CCC=3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CCC3[C@]2(CCC(C1)=O)C)C | C28H43NO
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-cyano-5α-cholest-8-en-3β-ol | 1.00 g | C(#N)[C@]12CCC=3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CCC3[C@]2(CC[C@@H](C1)O)C)C | C28H45NO
